US07700628B2
Preparation of N-(5-Chloropyridin-2-yl)-5-fluoro-2-[4-isopropyl-2-(piperidin-3-yl-methoxy)benzoylamino]benzamide Dihydrochloride.
Using methods substantially equivalent to those described in example 60-I & J, 2-[4-isopropyl-2-(piperidin-3-yl-methoxy)benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide hydrochloride (92 mg, 0.15 mmol, 14%) was prepared from 4-isopropyl-2-(N-tert-butoxycarbonylpiperidin-3-yl)methoxybenzoic acid and N-(5-chloropyridin-2-yl)-2-amino-5-fluorobenzamide after reverse phase HPLC purification.

reactant | 2-[4-isopropyl-2-(piperidin-3-yl-methoxy)benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide hydrochloride | 0.15 mmol, 92 mg | Cl.C(C)(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)F)C=C1)OCC1CNCCC1
reactant | 4-isopropyl-2-(N-tert-butoxycarbonylpiperidin-3-yl)methoxybenzoic acid | C(C)(C)C1=CC(=C(C(=O)O)C=C1)OCC1CN(CCC1)C(=O)OC(C)(C)C | C21H31NO5
reactant | N-(5-chloropyridin-2-yl)-2-amino-5-fluorobenzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)N)=O | C12H9ClFN3O
product | N-(5-Chloropyridin-2-yl)-5-fluoro-2-[4-isopropyl-2-(piperidin-3-yl-methoxy)benzoylamino]benzamide Dihydrochloride | Cl.Cl.ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)NC(C1=C(C=C(C=C1)C(C)C)OCC1CNCCC1)=O)=O | InChI=1S/C28H30ClFN4O3.2ClH/c1-17(2)19-5-8-22(25(12-19)37-16-18-4-3-11-31-14-18)27(35)33-24-9-7-21(30)13-23(24)28(36)34-26-10-6-20(29)15-32-26;;/h5-10,12-13,15,17-18,31H,3-4,11,14,16H2,1-2H3,(H,33,35)(H,32,34,36);2*1H
